US07109225B2
d] [rac]-3-[4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-2-methyl-phenyl]-2-ethoxy-propionic acid
To a solution of [rac]-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methyl-phenyl]-2-ethoxy-propionic acid ethyl ester (50 mg, 0.124 mmol) in THF/methanol 2/1 (0.75 ml) was added a 1 N aqueous LiOH solution (0.75 ml, 0.72 mmol). The reaction mixture was stirred for 2 h at ambient temperature, neutralized with 1 N aqueous HCl solution under ice cooling and concentrated under reduced pressure. The residue was dissolved in 1 N HCl/ice water 1/1 and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (44 mg, 0.117 mmol, 95%) as colorless crystals.

reactant | [rac]-3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-2-methyl-phenyl]-2-ethoxy-propionic acid ethyl ester | 0.124 mmol, 50 mg | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C(C)(C)C)C)OCC)=O | C23H33NO5
reactant | LiOH | 0.72 mmol, 1 N, 0.75 ml | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF methanol | 0.75 ml | C1CCOC1.CO
product | [rac]-3-[4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-2-methyl-phenyl]-2-ethoxy-propionic acid | 0.117 mmol, 44 mg, 95% | C(C)(C)(C)C=1OC(=C(N1)COC1=CC(=C(C=C1)CC(C(=O)O)OCC)C)C | C21H29NO5
